US07045539B2
6-Bromo-2-(4-hydroxy-phenyl)-benzothiazole
6-Bromo-2-(4-methoxy-phenyl)-benzothiazole (120 mg, 0.375 mmol) was suspended in boron tribromide (1M in methylene chloride, 7.0 mL) and stirred at room temp under nitrogen for 18.0 h. Reaction was poured into saturated brine and extracted with ethyl acetate. Ethyl acetate extracts were washed with: 1) hydrochloric acid (1.0M), 2) saturated brine and concentrated in vacuo. Residue was washed with hexane, and dried under vacuum yielding the title compound (115 mg, 100%) as a tan solid. Mass spec: MH+=306

reactant | 6-Bromo-2-(4-methoxy-phenyl)-benzothiazole | 0.375 mmol, 120 mg | BrC1=CC2=C(N=C(S2)C2=CC=C(C=C2)OC)C=C1 | C14H10BrNOS
solvent | boron tribromide | 1M, 7.0 mL | B(Br)(Br)Br | BBr3
solvent | brine | [Cl-].[Na+].O
product | 6-Bromo-2-(4-hydroxy-phenyl)-benzothiazole | 115 mg, 100% | BrC1=CC2=C(N=C(S2)C2=CC=C(C=C2)O)C=C1 | C13H8BrNOS
